US05221752
2-Hydroxy-2-(N-benzyloxycarbonylpyrrolidin-2-yl acetic acid (202 mg), leucine t-butyl ester hydrochloride (162 mg) and triethylamine (106 μl ) were dissolved in dry dichloromethane (4 ml), and 1-hydroxybenzotriazole (196 mg) and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (196 mg) were added to the solution under cooling with ice and stirred for 2 h. The temperature was elevated to room temperature and the mixture was stirred for 6 h. The reaction liquid was concentrated under reduced pressure and dissolved in ethyl acetate. The solution was washed with a 4% aqueous sodium hydrogencarbonate solution, a 5% aqueous citric acid solution and a saturated aqueous sodium chloride solution. The ethyl acetate layer thus treated was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, purified with silica gel column chromatography and [2-hydroxy-2-(N-benzyloxycarbonylpyrrolidin-2-yl)acetyl]-leucine t-butyl ester (310 mg) was obtained. Then 310 mg of this compound was dissolved in methanol (10 ml) and catalytic reduction was conducted in the presence of palladium black under hydrogen atmosphere at room temperature for 6 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 217 mg of a white powder. The obtained compound was dissolved in DMF (3 ml), and 1-benzyloxycarbonylphenylalanine (217 mg) and N-hydroxybenzotriazole (187 mg) were added to the solution. After 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride(185 mg) was added to this mixture under cooling with ice, the temperature was elevated to room temperature and the mixture was stirred for 5 h. The reaction liquid was dissolved in ethyl acetate. The solution was washed with a 4% aqueous sodium hydrogencarbonate solution, a 5% aqueous citric acid solution and a saturated aqueous sodium chloride solution. The ethyl acetate layer thus treated was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, subjected to silica gel column chromatography and developed with a dichloromethane/methanol mixture (100/1). A fraction containing the intended compound was concentrated under reduced pressure to give N-benzyloxycarbonylphenylalanyl-[2-hydroxy-2-(pyrrodin-2-yl)acetyl]-leucine t-butyl ester (393 mg). Then 317 mg of this compound was oxidized with pyridinetrifuloroacetic acid (51 mg), dicyclohexylcarbodiimide (330 mg) and DMSO (4 ml) and purified in the same manner as that of Example (13) to give 265 mg of a white powder.

reactant | N-benzyloxycarbonylpyrrolidin-2-yl acetic acid | 202 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)CC(=O)O | C14H17NO4
reactant | leucine t-butyl ester hydrochloride | 162 mg | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxybenzotriazole | 196 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 196 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | triethylamine | 106 μl | C(C)N(CC)CC | C6H15N
product | [2-hydroxy-2-(N-benzyloxycarbonylpyrrolidin-2-yl)acetyl]-leucine t-butyl ester | 310 mg | C(C)(C)(C)OC([C@@H](NC(C(C1N(CCC1)C(=O)OCC1=CC=CC=C1)O)=O)CC(C)C)=O | C24H36N2O6
